US04168379
36.8 g of 2-benzyl-4-isopropyl-5-ethoxyoxazole (150 millimoles) and 210 g (3 moles) of 2,5-dihydrofuran are heated in an autoclave at 190° C. for 5 hours. Unconverted 2,5-dihydrofuran is distilled off. The residue is taken up in methylene chloride and the solution is extracted with 10% strength sodium hydroxide solution. On neutralizing the alkaline solution, crude 4-benzyl-6-isopropyl-1,3-dihydro-furo[3,4-c]pyridin-7-ol is obtained and is extracted with methylene chloride (20.4 g). The product is converted to the hydrochloride by means of dilute hydrochloric acid and the hydrochloride is recrystallized from ethanol; melting point 232°-233° C.

reactant | 2-benzyl-4-isopropyl-5-ethoxyoxazole | 150 millimoles, 36.8 g | C(C1=CC=CC=C1)C=1OC(=C(N1)C(C)C)OCC | C15H19NO2
reactant | 2,5-dihydrofuran | 3 moles, 210 g | O1CC=CC1 | C4H6O
product | 4-benzyl-6-isopropyl-1,3-dihydro-furo[3,4-c]pyridin-7-ol | C(C1=CC=CC=C1)C1=NC(=C(C2=C1COC2)O)C(C)C | C17H19NO2
